US06756378B2
A mixture of 4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetic acid (310 mg, 0.93 mmol), methyl 4-[(2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxybenzoate (350 mg, 0.93 mmol), EDC.HCl (267 mg, 1.40 mmol) and DMAP (171 mg, 1.40 mmol) in DMF (10 ml) was stirred at room temperature for 3 days. The mixture was poured into ice water and extracted with EtOAc. The combined extracts were washed with ice water and brine. After dried over Na2SO4, the extracts were concentrated in vacuo. The residue was chromatographed on silica gel [100 g, n-hexane/EtOAc(1/1)CHCl3/MeOH(50/1)], to give methyl 4-[(2S,4S)-1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetyl]-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxybenzoate (450 mg, 68%) as a pale brown amorphous. 1H-NMR (CDCl3) δ2.32 (m, 1H), 2.58 (d, J=14.5 Hz, 1H), 3.63 (d, J=2.7 Hz, 1H), 3.70 (s, 3H), 3.86 (s, 3H), 3.84-3.95 (m, 2H), 4.15-4.64 (m, 4H), 5.11 (br, 1H), 6.79-7.06 (m, 7H), 7.21-7.46 (m, 7H), 7.66-7.77 (m, 3H), 7.92 (d, J=8.8 Hz, 1H), 7.97 (m, 1H), 8.17 (d, J=8.4 Hz, 1H); MS (ESI) m/z 694 (M++1), 696 (M++3).

reactant | 4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetic acid | 0.93 mmol, 310 mg | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15ClN2O4
reactant | methyl 4-[(2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxybenzoate | 0.93 mmol, 350 mg | C1=C(C=CC2=CC=CC=C12)O[C@H]1C[C@H](NC1)COC1=CC=C(C(=O)OC)C=C1 | C23H23NO4
reactant | EDC.HCl | 1.40 mmol, 267 mg | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 1.40 mmol, 171 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-[(2S,4S)-1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetyl]-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxybenzoate | 450 mg, 68% | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1[C@@H](C[C@@H](C1)OC1=CC2=CC=CC=C2C=C1)COC1=CC=C(C(=O)OC)C=C1)OC)=O | C39H36ClN3O7
